US09120825B2
In an argon atmosphere, a dilithium(N,N′-di-tert-butyl-1,2-vinylenediaminide) solution prepared by using 32.16 g of tBuNCHCHNtBu, 250 mL of tetrahydrofuran and 2.67 g of lithium according to the procedure described in Reference Example-9 was added to a hexane (30 mL) solution containing 25.12 g (185.5 mmol) of trichlorosilane, and the mixture was stirred at room temperature for 3 hours. To this reaction mixture, 14.47 g (purity: 96%, 213.7 mmol) of sodium cyanate was added, and the mixture was stirred for 4 hours under heating an refluxing. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 85° C./3.3×102 Pa) to obtain 1,3-di-tert-butyl-2-isocyanato-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NCO) as a colorless liquid (yielded amount: 35.44 g, yield: 80%). The thus-obtained Si(tBuNCHCHNtBu)(H)NCO was measured for the 1H and 13C NMR spectra, as a result, these spectra agreed with spectra of those obtained in Example-29 and Example-30.

reactant | dilithium(N,N′-di-tert-butyl-1,2-vinylenediaminide) | C(C)(C)(C)[N-]C=C[N-]C(C)(C)C.[Li+].[Li+]
reactant | lithium | 2.67 g | [Li] | Li
reactant | trichlorosilane | 185.5 mmol, 25.12 g | Cl[SiH](Cl)Cl | Cl3HSi
reactant | sodium cyanate | 213.7 mmol, 14.47 g | [O-]C#N.[Na+]
solvent | hexane | 30 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 1,3-di-tert-butyl-2-isocyanato-1,3-diaza-2-silacyclopent-4-ene | yield: 80% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)N=C=O | C11H21N3OSi
